US05206240
Step A: Preparation of Ethyl-3,4-dihydro-1-oxospiro-[naphthalene-2(1H), 4'-piperidine]-1'-carboxylate
To a solution of 2.92 g (20.0 mmoles) 1-tetralone and 9.0 g (30.0 mmoles) ethyl bis(2-bromoethyl)carbamate (S. Huybuchts and G. J. Hoornaert, Synth. Commum., 11, 17 (1981) in 20 ml dry dimethylformamide heated to 50° C. under argon was added in portions 2.00 g (50.0 mmol) of 60% sodium hydride dispersion is mineral oil. The mixture was stirred 14 hours at 50° C. and the solvent was removed in vacuo. The residue was taken up in 50 ml ether, quenched with 5 ml saturated ammonium chloride solution, diluted with 10 ml water, and the layers were separated. The aqueous layer was extracted with 2×50 ml ether. The combined extracts were washed with 2×15 ml water and brine, dried, and the solvent was removed in vacuo to give 7.77 g crude product as an oil. This was purified by flash chromatography on silica gel eluting with ethyl acetate: hexane (30:70) to give 1.47 g (26%) product as an oil; 'H NMR (deuteriochloroform): δ1.26 (t, 3H), 1.52 (m, 2H), 1.97 (m, 2H), 2.06 (t,2H), 3.01 (t, 3H), 3.59 (m, 4H), 4.14 (q, 2H), 7.24 (t, 1H), 7.31 (t, 1H), 7.97 (m, 1H), 8.01 (d, 1H).

reactant | 1-tetralone | 20.0 mmoles, 2.92 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | ethyl bis(2-bromoethyl)carbamate | 30.0 mmoles, 9.0 g | BrCCN(C(OCC)=O)CCBr | C7H13Br2NO2
reactant | sodium hydride | 50.0 mmol, 2.00 g | [H-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl-3,4-dihydro-1-oxospiro-[naphthalene-2(1H), 4'-piperidine]-1'-carboxylate | 1.47 g, 26% | C(C)OC(=O)N1CCC2(CC1)C(C1=CC=CC=C1CC2)=O | C17H21NO3
